US06509328B1
4-(3-Chloro-phenyl)-8-phenyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
Prepared from (3-amino-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G9) (284 mg, 1.0 mmol) and 6-(3-Chloro-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J6) (358 mg, 1.2 mmol) according to the general procedure K. The obtained material (339 mg) was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (188 mg).

reactant | (3-amino-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 1.0 mmol, 284 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=CC=C1)N)=O | C17H20N2O2
reactant | 6-(3-Chloro-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | 1.2 mmol, 358 mg | ClC=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C12H11ClO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Chloro-phenyl)-8-phenyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 188 mg | ClC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C2=CC=CC=C2 | C21H15ClN2O
